### PR TITLE
[Merged by Bors] - feat: implement zpow norm_num extension

### PR DESCRIPTION
**Pull request by dwrensha**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by dwrensha** [comment]
For reference, here is the mathlib3 version: https://github.com/leanprover-community/mathlib/blob/65a1391a0106c9204fe45bc73a039f056558cb83/src/tactic/norm_num.lean#L1051-L1107

I didn't actually directly port that logic line-by-line; I found it easier to start from scratch.

**Review by Parcly-Taxel — APPROVED** [review]

File: Mathlib/Tactic/NormNum/Pow.lean [hunk 1]
```diff
@@ -193,3 +193,73 @@ def evalPow : NormNumExt where eval {u α} e := do
...
+
+/-- The `norm_num` extension which identifies expressions of the form `a ^ b`,
+such that `norm_num` successfully recognises both `a` and `b`, with `b : ℤ`. -/
+@[norm_num (_ : α) ^ (_ : ℤ)]
+def evalZPow : NormNumExt where eval {u α} e := do
+  let .app (.app (f : Q($α → ℤ → $α)) (a : Q($α))) (b : Q(ℤ)) ← whnfR e | failure
+  let _c ← synthInstanceQ q(DivisionSemiring $α)
+  let rb ← derive (α := q(ℤ)) b
+  have h : $e =Q $a ^ $b := ⟨⟩
+  h.check
```
Comment (eric-wieser) [inline Mathlib/Tactic/NormNum/Pow.lean:237]: @dwrensha, I pushed the change I was thinking of here

**Review by eric-wieser — APPROVED** [review]
LGTM!

I pushed some small tweaks, feel free to revert them if you don't like them.

bors d+

Perhaps leave it a day or two to see if @digama0 or @thorimur has anything to add.

File: Mathlib/Tactic/NormNum/Pow.lean [hunk 2]
```diff
@@ -193,3 +193,73 @@ def evalPow : NormNumExt where eval {u α} e := do
...
+    {num : ℤ} {den : ℕ}
+    (pb : IsNat b nb) (pe' : IsRat (a^nb) num den) :
+    IsRat (a^b) num den := by
+  rwa [pb.out, zpow_coe_nat]
+
+theorem isRat_zpow_neg {α : Type*} [DivisionRing α] {a : α} {b : ℤ} {nb : ℕ}
+    {num : ℤ} {den : ℕ}
+    (pb : IsInt b (Int.negOfNat nb)) (pe' : IsRat ((a^nb)⁻¹) num den) :
+    IsRat (a^b) num den := by
+  rwa [pb.out, Int.cast_negOfNat, zpow_neg, zpow_coe_nat]
```
Comment (eric-wieser) [inline Mathlib/Tactic/NormNum/Pow.lean:227]: Unfortunately these can't be generalized to `NNRat` or `NNReal` without something like https://github.com/leanprover-community/mathlib4/tree/nnrat-norm_num; while definitely not a job for this PR, it would be great if someone could adopt it!

Comment (eric-wieser) [reply Mathlib/Tactic/NormNum/Pow.lean:227]: (#9915)
